US08168795B2
A mixture of 4-bromoaniline 118 (5.0 g, 24.2 mmol) and chloral (4.7 mL, 48.2 mmol) in THF (4 mL) was heated for 30 minutes. Solvent was removed under vacuum. 4-Bromo-N-(2,2,2-trichloro-1-hydroxyethyl)benzamide 121 (1.26 g, 3.62 mmol) in chloroform (15 mL) and PCl5 (0.8 g, 3.65 mmol) was heated at 50° C. for 30 minutes. The product was isolated from a standard aqueous work-up and extraction to produce 4-bromo-N-(1,2,2,2-tetrachloroethyl)benzamide. 4-Bromo-N-(1,2,2,2-tetrachloroethyl)benzamide (1.21 mmol) in ether (50 mL) was reacted with 6-chloropyridin-3-amine (0.32 g, 2.44 mmol) at room temperature for 18 hours. The mixture was subjected to a standard aqueous work-up and extraction. Chromatography on silica gel (7:3 hexanes:CH2Cl2) gave 4-bromo-N-(2,2,2-trichloro-1-(6-chloropyridin-3-ylamino)ethyl)benzamide (Compound-42, 0.36 g, 65%). 1H NMR (300 MHz, d4-methanol): δ=7.99 (dd, J=3.0, 0.6 Hz, 1H), 7.74 (d, J=9.0 Hz, 2H), 7.65 (d, J=9.0 Hz, 2H), 7.36 (dd, J=9.0, 3.3 Hz, 1H), 7.26 (dd, J=8.7, 0.6 Hz, 1H), 6.36 (s, 1H).

reactant | 4-Bromo-N-(1,2,2,2-tetrachloroethyl)benzamide | 1.21 mmol | BrC1=CC=C(C(=O)NC(C(Cl)(Cl)Cl)Cl)C=C1 | C9H6BrCl4NO
reactant | 6-chloropyridin-3-amine | 2.44 mmol, 0.32 g | ClC1=CC=C(C=N1)N | C5H5ClN2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-bromo-N-(2,2,2-trichloro-1-(6-chloropyridin-3-ylamino)ethyl)benzamide | 0.36 g, 65% | BrC1=CC=C(C(=O)NC(C(Cl)(Cl)Cl)NC=2C=NC(=CC2)Cl)C=C1 | C14H10BrCl4N3O
